US09168245B2
Synthesis of intermediate IV-c: 1-Acetyl-3-(4-methyl-3-nitro-phenyl)-thiourea
To a solution of ammonium thiocyanate (1.05 g, 13.85 mmol) in acetone (21 mL) was added dropwise acetyl chloride (0.90 mL 12.70 mmol). The reaction mixture was stirred at 40° C. for 30 min. Then, a solution of 4-methyl-3-nitroaniline (1.76 g, 11.54 mmol) in acetone (7 mL) was added and the reaction mixture was stirred at room temperature for 4 h. The reaction mixture was poured into ice-water and the precipitate was filtered, washed with more water and cyclohexane to give compound IV-c as brown solid in 50% yield. (300 MHz, DMSO) δ 12.45 (s, 1H), 11.53 (s, 1H), 8.38 (d, J=2.0 Hz, 1H), 7.69 (dd, J=8.3, 2.0 Hz, 1H), 7.43 (d, J=8.3 Hz, 1H), 2.44 (s, 3H), 2.09 (s, 3H).

reactant | ammonium thiocyanate | 13.85 mmol, 1.05 g | [S-]C#N.[NH4+]
reactant | acetyl chloride | 12.70 mmol, 0.90 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-methyl-3-nitroaniline | 11.54 mmol, 1.76 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | DMSO | CS(=O)C | C2H6OS
solvent | acetone | 21 mL | CC(=O)C | C3H6O
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | 1-Acetyl-3-(4-methyl-3-nitro-phenyl)-thiourea | 50% yield | C(C)(=O)NC(=S)NC1=CC(=C(C=C1)C)[N+](=O)[O-] | C10H11N3O3S
